US04420479
1-Isopropylsulfonyl-2-amino-6-(α-chloromethylenebenzyl)benzimidazole.
To a stirred solution of 4.0 g. of 1-isopropylsulfonyl-2-amino-6-(α-methylenebenzyl)benzimidazole (from U.S. Pat. No. 4,118,742) in 100 ml. of tetrahydrofuran was added in one portion 1.56 g. of N-chlorosuccinimide. The reaction mixture was heated at reflux for two and one-half hours, and then cooled to room temperature. The reaction solvent was removed by evaporation under reduced pressure to provide the crude product as a gum. The gum was suspended in water, and then was extracted into chloroform. The chloroform extracts were combined, washed with fresh water, dried, and the solvent was removed by evaporation under reduced pressure. The product thus formed was dissolved in 50 ml. of diethyl ether, and after concentrating the volume of the mixture to about 25 ml., a white crystalline product precipitated and was identified as 1.5 g. of trans-1-isopropylsulfonyl-2-amino-6-(α-chloromethylenebenzyl)benzimidazole. M.P. 180°-181° C. Yield 34%.

reactant | 1-isopropylsulfonyl-2-amino-6-(α-methylenebenzyl)benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=C)N | C18H19N3O2S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Isopropylsulfonyl-2-amino-6-(α-chloromethylenebenzyl)benzimidazole | Yield 34% | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=CCl)N | C18H18ClN3O2S
